* ============================================================================
* 909 Rim Shot — Single Bridged-T Resonator (Behavioral State-Space Equivalent)
* PedalKernel SPICE Golden Reference
*
* TOPOLOGY NOTE: The 909 rim uses a single bridged-T Sallen-Key resonator at
* ~412 Hz with moderate Q (~5.56), producing a short click/transient. The
* .pedal uses Decay=0.3 (default) which damps the oscillator to keep the ring
* tight. Same behavioral state-space approach as 808_rimshot.spice.
*
* PARAMETERS (from 909_rim.pedal — pedalkernel-pro, private):
*   R1 = R2 = 82kΩ, C1 = C2 = 4.7nF
*   f0 = 1 / (2π·R·C) = 1 / (2π·82k·4.7n) = 412.3 Hz
*   r_crit = R1+R2+R1·(C1/C2) = 82k+82k+82k = 246kΩ
*   R_fb = 300kΩ  →  Q = 300 / (300−246) = 5.56
*   zeta = 1/(2·Q) = 0.0899
*   omega0 = 2π·412.3 = 2590.5 rad/s
*   2·zeta·omega0 = 465.7
*   τ ≈ Q / (π·f0) ≈ 4.3 ms
*
* NOTE ON DECAY KNOB: The .pedal default is Decay=0.3, which shunts the
* midpoint with ~150kΩ effective resistance, reducing the effective Q
* significantly below the theoretical 5.56. At Decay=0.3 the ring is very
* short (~1-2ms), giving the characteristic 909 rim click. The SPICE model
* uses the unloaded Q=5.56 (Decay=1.0 position) as the reference. The WDF
* engine will apply the pot damping internally.
*
* COMPARISON NOTE: The 808 rimshot uses R=47k, C=3.3n → f0=1026 Hz (Q=2.78).
* The 909 rim uses R=82k, C=4.7n → f0=412 Hz (Q=5.56) — same pitch range per
* the .pedal rationale: differentiation comes from decay character, not pitch.
*
* STATE-SPACE MODEL:
*   dx/dt  = ω₀ · v
*   dv/dt  = −ω₀·x − 2ζω₀·v + ω₀·u(t)
*   y = x
*
* VERIFIED: f0 = 412.3 Hz (theory), Q = 5.56, τ ≈ 4.3 ms (unloaded)
* ============================================================================

* --- State variable: v_x (position / oscillator voltage) ---
Cx v_x 0 1

* G-source: dv_x/dt = omega0 * v_v
Gx_v 0 v_x v_v 0 2590.5

* --- State variable: v_v (velocity, scaled by 1/omega0) ---
Cv v_v 0 1

* G-source: −omega0 * v_x  (restoring force)
Gv_x 0 v_v v_x 0 -2590.5

* G-source: −2·zeta·omega0 * v_v  (damping)
Gv_v 0 v_v v_v 0 -465.7

* G-source: omega0 * trigger input
Gv_in 0 v_v v_in 0 2590.5

* --- Output mapping ---
Bout v_out 0 V = v(v_x)
Rload_out v_out 0 100k
